US09034851B2
Step B: N-benzhydryl-4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidine-5-carboxamide (1-1-b)
4-Hydroxy-2-(1H-pyrazol-1-yl)pyrimidine-5-carboxylic acid (1-1-a, 8 g, 38.8 mmol) and CDI (7.24 g, 44.6 mmol) was dissolved in DMF (80 mL), stirred for 45 min at 105° C., then cooled to 77° C. Diphenylmethanamine (9.2 g, 50.4 mmol) and Et3N (5.41 ml, 38.8 mmol) were then added to the solution at 77° C. and the reaction mixture was stirred for 5 h. The resulting mixture was cooled to ambient temperature, diluted with 150 ml of water, extracted with ethyl acetate (3 times 150 ml). The organic phases were combined, washed with brine, dried over anhydrous Na2SO4, purified by recrystillized in EtOH/Et2O (1/10). A yellow solid was obtained as product, 1-1-b, (6.4 g, 45%). 1H NMR (300 MHz, DMSO-d6) δ 6.32-6.34 (d, J=8.4, 1H), 6.50-6.51 (m, 1H), 7.29-7.43 (m, 11H), 7.74 (s, 1H), 8.55-8.58 (m, 2H), 11.77 (s, 1H). LC-MS 372 [MH]+.

reactant | 4-Hydroxy-2-(1H-pyrazol-1-yl)pyrimidine-5-carboxylic acid | 38.8 mmol, 8 g | OC1=NC(=NC=C1C(=O)O)N1N=CC=C1 | C8H6N4O3
reactant | CDI | 44.6 mmol, 7.24 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Diphenylmethanamine | 50.4 mmol, 9.2 g | C1(=CC=CC=C1)C(N)C1=CC=CC=C1 | C13H13N
reactant | Et3N | 38.8 mmol, 5.41 ml | CCN(CC)CC | C6H15N
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | N-benzhydryl-4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidine-5-carboxamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)N1N=CC=C1)O | C21H17N5O2
